Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dizziness and worsening right sided weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ Stroke Scale Score: 9

NIHSS performed within 6 hours of presentation at: ___ at
2325
NIHSS Total: 9
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 2 (residual)
5a. Motor arm, left: 0
5b. Motor arm, right: 2 (residual)
6a. Motor leg, left: 0
6b. Motor leg, right: 1 (residual)
7.  Limb Ataxia: 0
8.  Sensory: 1 (residual?)
9.  Language: 1 (residual?)
10. Dysarthria: 1 (residual?)
11. Extinction and Neglect: 1 (residual?)
 
REASON FOR CONSULTATION: dizziness, intermittent right lower
extremity weakness throughout day

HPI: 

___ is a ___ year old woman with history of
hypertension, hyperlipidemia, prior stroke with residual right
hemiparesis, localization-related epilepsy on Keppra and
lamotrigine, hypothyroidism, and glaucoma who presented to ED
from nursing home after new-onset dizziness this morning with
subsequent acute-on-chronic right lower extremity weakness.
History obtained by patient and as per chart review. 

The patient reports that she was she had seen Dr. ___
yesterday in clinic to establish new neurology clinic follow-up.
No outside records were available for evaluation at that time 
but
her baseline exam prior to new symptom onset was documented.
After her clinic appointment, she returned to her nursing home 
in
usual state of health. She woke up this morning and felt well. 
At
around 11AM, while urinating, she suddenly felt room-spinning
dizziness that resolved but was followed by an atypical 
sensation
in her right lower extremity, described as heaviness and
weakness. She notes that she has lived with her residual stroke
deficits for ___ years and never felt anything like this in her
right leg. She tried to get up from the commode but did not have
the strength and as such called for help. Throughout the rest of
the day, she notes that her right sided weakness and heaviness
was intermittent. Her dizziness has since resolved. This 
evening,
she noted that she was again feeling weaker in her right lower
extremity, requiring assistance to mobilize which is atypical 
for
her. She thus requested ED evaluation and was brought to ___.
Since arrival at ___ (~ 15 minutes prior to my evaluation) she
notes her symptoms have started to improve again. She now thinks
she may be back at baseline, or close to it. 

Per Dr. ___ initial clinic note on ___:
" Based on history, the patient suffered a stroke ___ years ago
and was left with right hemiparesis. Since the stroke she has
been on ASA 81 mg and had no recurrent events. She also suffers
from seizures with mouth foaming, shaking and urinary
incontinence, but no generalization. She is on Keppra for
her seizures and she has not had a seizure for a long time." His
exam at the time was notable for "mild aphasia and dysarthria
with right facial droop and right hemiparesis." He had no 
outside
records at that time and as primary reason for visit was to
establish neurological care, he continued her on home dose of
atorvastatin 60mg, aspirin 81 mg per his note, Keppra, and
lamictal (for mood? is what is questioned in Dr. ___. 
 
ROS: 
Notable for above findings, otherwise noncontributory
 
PMH:
====
HYPERTENSION                                                    
HYPERLIPIDEMIA                                                  
HYPOTHYROIDISM                                                  
STROKE                                                          
SEIZURE DISORDER                                                
GLAUCOMA        
                                                
Surgical History  (Last Verified ___ by ___,
MD):
Surgical History updated, no known surgical history.            

Medications:
===========
***NEEDS MEDICATION RECONCILLIATION***
Keppra 500mg BID
lamotrigine 200mg BID (for mood)
Aspirin (either 81 or 325, unclear per chart review/med review 
in
OMR)
metoprolol succinate 25mg ER qday
levothyroxine 50ucg qday
furosemide 20mg qday
baclofen 10mg PRN muscle spasm (BID)
atorvastin 60mg qPM

Allergies:
=========
no known drug allergies         

SOCIAL HISTORY:
Social History  (Last Verified ___ by ___, 
MD):
Lives with:         Group setting                               
Tobacco use:        Never smoker                                
Alcohol use:        Denies                                      
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         

- Modified Rankin Scale:
[] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[x] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead
 
FAMILY HISTORY:
notable for stroke and hypertension            

PHYSICAL EXAMINATION: 
Vitals: 
T96.9, HR70-80s, RR16-24, BP140-180/70s 95 SaO2
Orthostatics:
137/81 supine with HR 78 --> standing HR 95; BP 161/92

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple,  No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: trace pedal edema.

Neurologic:
-Mental Status: Alert and interactive with examiner. Oriented to
self and to situation. Able to follow midline and appendicular
commands. Has difficulty with two-step commands. Able to name
high and low frequency objects with exception of wristwatch 
clasp
(refers to as band). Difficulty with ___ backwards and ___
backwards, after multiple attempts with either task says
___ Repetition intact.
No neglect. 

-Cranial Nerves: PERRL 3>2. No nystagmus. Right eye does not
fully bury sclera on lateral gaze. Visual fields full to finger
counting. ? prior left bells palsy?. Right NLFF with delayed
activation. Facial musculature symmetric. Hearing intact to
conversation. Tongue midline. Slight dysarthria with guttural
sounds. 
 
-Motor: Right hemibody is with increased tone and spasticity at
baseline. No adventitious movements. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  3    ___   0  0  0  3   4    4  4     4     0
 Per Dr. ___ ___
"R  2    ___   0  0  0  2   -___     4     2"

-Sensory: Diminished sensation to pinprick on right lower
extremity compared to left. Extinguishes to light touch with DSS
on right. Temperature, proprioception intact.

-Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  3    2    3   3
Plantar response was ? extensor on right, flexor on left. 

-Coordination: No intention tremor. No dysmetria on FNF on left
and no decreased augmentation of movements with heel tapping on
right or left lower extremity.

-Gait: Deferred in setting of acute illness, without baseline
walker on hand

LABORATORY DATA:
___ 12:00AM BLOOD WBC: 4.4 RBC: 4.24 Hgb: 11.7 Hct: 38.5
MCV: 91 MCH: 27.6 MCHC: 30.4* RDW: 15.2 RDWSD: 50.4* Plt Ct: 244 

___ 12:10AM BLOOD ___: 11.8 PTT: 28.3 ___: 1.1 
___ 12:00AM BLOOD Glucose: 82 UreaN: 9 Creat: 0.8 Na: 142 
K:
4.0 Cl: 104 HCO3: 28 AnGap: 10 
___ 12:00AM BLOOD ALT: 18 AST: 28 AlkPhos: 90 TotBili: 0.5 
___ 12:00AM BLOOD cTropnT: <0.01 
___ 12:00AM BLOOD Albumin: 4.3 Calcium: 10.0 Phos: 2.7 Mg:
2.1 
___ 12:00AM BLOOD ASA: NEG Ethanol: NEG Acetmnp: 8* 
Tricycl:
NEG 
___ 12:06AM BLOOD Glucose: 82 Lactate: 1.5 Creat: 0.7 Na:
139 K: 4.7 Cl: 108 calHCO3: 29 
___ 12:06AM BLOOD Hgb: 12.5 calcHCT: 38 
___ 02:36AM URINE Blood: NEG Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.5 
Leuks:
NEG 
___ 02:36AM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG 

EKG: NSR

IMAGING: 
NCHCT: multiple areas of encephalomalacia, including left
frontoparietal, left occipital, right frontal and right parietal
lobe suggestive of chronic incarcts. Prominent ventricles. ?
periventricular white matter hypodensity.

CTA head and neck: no large vessel occlusion, no significant
intracranial disease. 

ASSESSMENT:

THis is a ___ year old woman with HTN, hyperlipidemia, prior
stroke with right hemiparesis, recently seen in stroke neurology
clinic, who presents today for new onset dizziness and
intermittent stuttering right lower extremity 
weakness/heaviness.
Exam is notable for mild aphasia, which I suspect is at her
baseline as per Dr. ___ on ___. She is 
slightly
inattentive to ___, which his mental exam also suggests was the
case two days prior. However, I do not some slightly more
profound right hemibody weakness as compared to his exam, with 0
in ___ (previously documented as 2). The patient also endorses
loss of pinprick sensation in right lower extremity and
extinguishes on the right with DSS. 

The underlying etiology for her new symptoms remains unclear. I
am reassured by the resolution since arrival to the ED but am
concerned about the possibility of a stuttering lacune given the
intermittent right lower extremity weakness vs flow-dependent
perfusion states vs subclinical seizures vs stroke 
recrudescence.
No obvious infectious triggers on routine lab work in ED. Given
new onset of waxing/waning symptoms with significant stroke risk
factors, admission is warranted for expedited management.

PLAN:
- Admit to stroke neurology service under attending Dr. ___.

# Neuro:
- MRI head 
- Check risk factors: fasting lipid panel and HBA1c  
- Consider increasing/transitioning aspirin  
- Allow BP to autoregulate as below
- ___ consults
 
# CV:  
- R/o MI with cardiac enzymes 
- Monitor cardiac telemetry  
- Allow BP to autoregulate with goal SBP<180 (goal 140-180s)  
- Hydralazine 10 mg IV q6h prn SBP > 180  
- Hold home antihypertensives / halve dose of beta-blocker  
- Trans-thoracic echo  
 
# Pulmonary:
- Monitor oximetry
- Screening CXR
 
# GI/Nutrition:
- NPO until passes water swallowing screen
- Cardiac heart healthy diet once passess
- Bowel regimen with Senna, Colace 
 
# Renal: 
- Baseline Cr: 0.7
- Continue to trend
- mIVF @ 70cc/hr for 1L pending PO eval 
 
# Endocrine:
- TSH, A1c
- Finger sticks QID
- Insulin sliding scale  
 
# Toxic/Metabolic:  
- Check LFTs  
- Check urine and serum toxin screens 
 
# ID:  
- Check UA  
- Check CXR
 
# Heme:
- Baseline Hgb: 11.7

# Psychiatric/Behavioral: 
- No active issues
  
# Hospital Issues: 
- DVT PPx: Pneumoboots, SQ heparin 
- Precautions: Fall, Aspiration 
- Restraints: none 
- Health Care Proxy: unknown
- Code Status:  full

 
Past Medical History:
HYPERTENSION                                                    
HYPERLIPIDEMIA                                                  
HYPOTHYROIDISM                                                  
STROKE                                                          
SEIZURE DISORDER                                                
GLAUCOMA    
 
Social History:
___
Family History:
notable for stroke and hypertension   
 
Physical Exam:
24 HR Data (last updated ___ @ 423)
    Temp: 98.3 (Tm 98.4), BP: 113/71 (113-145/71-84), HR: 72
(65-94), RR: 16 (___), O2 sat: 96% (96-98), O2 delivery: Ra   

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple,  No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Extremities: trace pedal edema.

Neurologic:
-Mental Status: Alert and interactive with examiner. Oriented to
self and to situation. Able to follow midline and appendicular
commands. Has difficulty with two-step commands. Repetition
intact. 

-Cranial Nerves: PERRL 3>2. No nystagmus. Right eye does not
fully bury sclera on lateral gaze. Visual fields full to finger
counting. Right NLFF with delayed activation. Facial musculature
symmetric. Hearing intact to conversation. Tongue midline. 
Slight
dysarthria with guttural sounds. 
 
-Motor: Right hemibody is with increased tone and spasticity at
baseline. No adventitious movements. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  3    4   4-   0   0  0 0  3   4    4  4-    4     0
 Per Dr. ___ ___
"R  2    ___   0  0  0  2   -___     4     2"

-Sensory: deferred

-Reflexes: deferred
Plantar response was extensor on right, flexor on left. 

-Coordination: No intention tremor. No dysmetria on FNF on left
and no decreased augmentation of movements with heel tapping on
right or left lower extremity.

-Gait: Deferred

 
Pertinent Results:
___ 06:00AM   ALT(SGPT)-16 AST(SGOT)-22 LD(LDH)-236 
CK(CPK)-134 ALK PHOS-83 TOT BILI-0.4
___ 06:00AM   CK-MB-3 cTropnT-<0.01
___ 06:00AM   ALBUMIN-3.9 CALCIUM-9.5 PHOSPHATE-2.6* 
MAGNESIUM-2.1 CHOLEST-154
___ 06:00AM   %HbA1c-5.3 eAG-105
___ 06:00AM   TRIGLYCER-40 HDL CHOL-76 CHOL/HDL-2.0 
LDL(CALC)-70
___ 06:00AM   TSH-7.9*
___ 06:00AM   T4-8.1
___ 06:00AM   WBC-4.7 RBC-4.00 HGB-11.0* HCT-36.4 MCV-91 
MCH-27.5 MCHC-30.2* RDW-15.2 RDWSD-50.2*
___ 06:00AM   ___ PTT-28.2 ___
___ 02:36AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:10AM   ___ PTT-28.3 ___
___ 12:06AM   GLUCOSE-82 LACTATE-1.5 CREAT-0.7 NA+-139 
K+-4.7 CL--108 TCO2-29
___ 12:06AM   HGB-12.5 calcHCT-38
___ 12:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-8* 
tricyclic-NEG

CT Head/ neck:
1. Multifocal areas of encephalomalacia as described above, 
largest in the 
left frontoparietal lobe.  This limits sensitivity for acute 
territorial 
infarction.  Consider further evaluation with MRI. 
2. Small chronic infarct left thalamus. 
3. No evidence of acute intracranial hemorrhage. 
4. Patent head and neck vasculature with no evidence of focal 
stenosis, 
occlusion, or aneurysm. 
5. Right thyroid lobe nodule measuring 1.9 cm. 

MR brain:
1. Study is moderately degraded by motion. 
2. Multiple bilateral supratentorial chronic infarcts, largest 
in the left MCA territory, with evidence of probable chronic 
blood products within right parieto-occipital infarct. 
3. No acute infarct or extra-axial collection. 

 
Brief Hospital Course:
Hospital Course:
___ is a ___ year old woman with history of 
hypertension, hyperlipidemia, prior stroke with residual right 
hemiparesis, localization-related epilepsy on Keppra and 
lamotrigine, hypothyroidism, and glaucoma who presented to ED
from nursing home after new-onset dizziness with subsequent 
acute-on-chronic right lower extremity weakness. Dizziness 
resolved but reported right sided "heaviness" persisted more so 
than her baseline deficit and thus was admitted to the stroke 
service. Upon admission to stroke service, underlying etiology 
for her new symptoms remained unclear. Cardiac origin ruled out 
with EKG and telemetry. There was resolution since arrival to 
the ED but concerning with possibility of a stuttering lacune 
given the intermittent right lower extremity weakness vs 
flow-dependent perfusion states vs subclinical seizures vs 
stroke recrudescence. No obvious infectious triggers on routine 
lab work in ED. Ultimately determined to have no stroke on MRI 
but given risk factors and past stroke burden, diagnosis of 
nonspecific sequela of cerebral infarction. 

#Nonspecific Sequela of infarction: patient reportedly had 
intermittent weakness and dizziness while at her facility. Upon 
assessment in the ED, her symptoms had significantly improved 
and she reported basically being back to baseline. NCHCT was 
ordered and read as showing multiple areas of encephalomalacia, 
including left frontoparietal, left occipital, right frontal and 
right parietal lobe suggestive of chronic infarcts. Prominent 
ventricles and periventricular white matter hypodensity. CTA 
head and neck showed no large vessel occlusion, no significant 
and no intracranial disease. She was admitted to the stroke 
service and an MRI brain was ordered. MR brain read as: Multiple 
bilateral supratentorial chronic infarcts, largest in the left 
MCA territory, with evidence of probable chronic blood products 
within right parieto-occipital infarct. No acute infarct or 
extra-axial collection. Stroke risk factor labs sent. TTE was 
done and found to have EF of 60, no cardiac origin of emboli 
observed and no PFO. ___ recommended ___ rehab. She was 
kept on ASA 325 mg. Atorvastatin 60mg kept on. 

#HYPERTENSION
She was initially taken off of her home BP meds and given BP 
chance to autoregulate given concern for stroke. Once new 
infarct ruled out on imaging, home BP meds added back. 
Metoprolol 25mg PO daily 

#HYPERLIPIDEMIA
She will be sent home on atorvastatin 60mg. 

#HYPOTHYROIDISM 
Her TSH was found to be elevated at 7.9 and her home 
levothyroxine was increased from 50 to 62mg qday. Her PCP ___ 
need to continue trending TSH while outpatient. 
 #SEIZURE DISORDER
Initial concern that her symptoms potentially were related to 
seizure however no further concern and home medications were not 
changed. She arrived on lamotrigine 200mg BID and keppra 500 BID 
which she remained on. 

#GLAUCOMA 
No issues while inpatient. 

Transitional Issues:
[ ] PCP: trend TSH. Levothyroxine increased from 50 to 62.5mcg 
daily given TSH 7.9. 

Core Measures:
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =70 ) - () No 
5. Intensive statin therapy administered? atorvastatin 60mg LDL 
> 70) (x) Yes - () No
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
10. Discharged on antithrombotic therapy? ASA 325 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Vitamin D ___ UNIT PO MONTHLY 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. LevETIRAcetam 500 mg PO BID 
7. LamoTRIgine 200 mg PO BID 
8. Furosemide 20 mg PO DAILY 
9. Baclofen 15 mg PO QPM 
10. Atorvastatin 60 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY  
2.  Atorvastatin 60 mg PO QPM  
3.  Baclofen 15 mg PO QPM  
4.  Furosemide 20 mg PO DAILY  
5.  LamoTRIgine 200 mg PO BID  
6.  LevETIRAcetam 500 mg PO BID  
7.  Levothyroxine Sodium 50 mcg PO DAILY  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  Multivitamins W/minerals 1 TAB PO DAILY  
10.  Vitamin D ___ UNIT PO MONTHLY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Nonspecific Sequela of Infarction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  
You were hospitalized due to symptoms of dizziness and right 
sided weakness resulting from what we believe to be nonspecific 
sequela of cerebral infarction. You were not found to have a new 
stroke on MRI, however you have a history of residual problems 
from past stroke and your new symptoms seemed consistent with 
stroke. We believe that your new symptoms are likely secondary 
to your stroke risk factors and related to old stroke. We would 
like you to continue your current home meds and to continue 
following closely with outpatient neurology in order to best 
prevent further strokes. A stroke is a condition where a blood 
vessel providing oxygen and nutrients to the brain is blocked by 
a clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are: high blood pressure, high 
cholesterol. 

We are not changing your home medications. 
 
Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___